US05998436
Synthesis of 1-(6-amino-3,5-difluoropyridin-2-yl)-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To a mixed solution of 0.5 ml of 4N hydrochloric acid and 0.5 ml of acetic acid was added 235 mg of ethyl 1-[6-(t-butylamino)-3,5-difluoropyridin-2-yl]-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate, and the mixture was heated under reflux with stirring for 7 hours. After adding 1 ml of distilled water, the mixture was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 182 mg of the title compound as a colorless powder.

reactant | hydrochloric acid | 4N, 0.5 ml | Cl | ClH
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | ethyl 1-[6-(t-butylamino)-3,5-difluoropyridin-2-yl]-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 235 mg | C(C)(C)(C)NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC)F)F | C21H18F5N3O3
solvent | water | 1 ml | O | H2O
product | 1-(6-amino-3,5-difluoropyridin-2-yl)-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 182 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O)F)F | C15H6F5N3O3
